US07812160B2
A solution of methyl {4-chloro-2-{4-[(cyclohexylmethyl)amino]benzyl}-6-[[2-(cyclopentyl-amino)-2-oxoethyl](methyl)amino]pyrimidin-5-yl}acetate (0.083 g, 0.15 mmol) in THF (5 mL) was treated with 1N NaOH (2.5 mL) and the resulting mixture was stirred at room temperature for 13 hours. Subsequent to neutralization with 6N HCl, the quenched reaction mixture was evaporated to dryness and the remaining residue dissolved with EtOH. The insoluble inorganic salts were removed by filtration and the filtrate was concentrated in vacuo. The crude product thus obtained was purified with preparative TLC eluting with 15% EtOH in CH2Cl2 to give {4-chloro-2-{4-[(cyclohexylmethyl)amino]benzyl}-6-[[2-(cyclopentylamino)-2-oxoethyl](methyl)amino]-pyrimidin-5-yl}acetic acid (0.023 g, 28% yield) as a clear oil.

reactant | methyl {4-chloro-2-{4-[(cyclohexylmethyl)amino]benzyl}-6-[[2-(cyclopentyl-amino)-2-oxoethyl](methyl)amino]pyrimidin-5-yl}acetate | 0.15 mmol, 0.083 g | ClC1=NC(=NC(=C1CC(=O)OC)N(C)CC(=O)NC1CCCC1)CC1=CC=C(C=C1)NCC1CCCCC1 | C29H40ClN5O3
reactant | NaOH | 1N, 2.5 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {4-chloro-2-{4-[(cyclohexylmethyl)amino]benzyl}-6-[[2-(cyclopentylamino)-2-oxoethyl](methyl)amino]-pyrimidin-5-yl}acetic acid | 0.023 g, 28% yield | ClC1=NC(=NC(=C1CC(=O)O)N(C)CC(=O)NC1CCCC1)CC1=CC=C(C=C1)NCC1CCCCC1 | C28H38ClN5O3
